US03935217
5.3 g of a 50% suspension of sodium hydride in mineral oil is added to a solution of 29.3 g of ethyl 4-(3,4-dimethoxyphenyl)-2-oxo-3-pyrrolidinecarboxylate in 180 ml of anhydrous dimethylformamide at 0°-5°C with stirring. The resulting mixture is held at 0°-5°C with stirring for 30 minutes and then at room temperature for an additional one hour. To the mixture is added 20.5 g of 3,4-dimethoxybenzyl chloride at 0°-5°C, and the whole mixture is stirred at room temperature for one hour. The reaction mixture is then concentrated under reduced pressure. Water is added to the residue, and the aqueous mixture is extracted with ethyl acetate. The extract is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residual oil is crystallized with ethanol to give 34.1 g of ethyl 3-(3,4-dimethoxybenzyl)-4-(3,4-dimethoxyphenyl)-2-oxo-3-pyrrolidinecarboxylate as white crystals, melting at 146°-149°C.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 4-(3,4-dimethoxyphenyl)-2-oxo-3-pyrrolidinecarboxylate | 29.3 g | COC=1C=C(C=CC1OC)C1C(C(NC1)=O)C(=O)OCC | C15H19NO5
reactant | 3,4-dimethoxybenzyl chloride | 20.5 g | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | ethyl 3-(3,4-dimethoxybenzyl)-4-(3,4-dimethoxyphenyl)-2-oxo-3-pyrrolidinecarboxylate | 34.1 g | COC=1C=C(CC2(C(NCC2C2=CC(=C(C=C2)OC)OC)=O)C(=O)OCC)C=CC1OC | C24H29NO7
